US08304419B2
Step A: Ethyl 3-oxo-2-(propanoylamino)butanoate
HATU (1.41 g, 3.7 mmol) was added to a mixture of ethyl 2-amino-3-oxobutanoate hydrochloride (565 mg, 3.12 mmol) and propionic acid (280 uL, 3.7 mmol) in DMF (2 mL) and THF (4 mL) at RT under N2. The reaction was stirred for 1 h and 4-methylmorpholine (0.41 mL, 3.7 mmol) was then added dropwise via a syringe pump to the above mixture. The reaction was stirred for 1 h and water was then added. It was extracted with EtOAc. The organic layer was washed with saturated sodium bicarbonate, HCl (1 N) and brine, dried over sodium sulfate and concentrated. The residue was purified by ISCO FC with 0-40% EtOAc in hexane to give the title compound (74 mg, 12%) as a light-yellow solid. 1H NMR (400 MHz, CDCl3-d) δ ppm 6.61 (s, 1H) 5.20 (d, J=6.59 Hz, 1H) 4.22 (q, J=7.14 Hz, 2H) 2.34 (s, 3H) 2.26 (q, J=7.51 Hz, 2H) 1.25 (t, J=7.14 Hz, 3H) 1.11 (t, J=7.51 Hz, 3H).

reactant | HATU | 3.7 mmol, 1.41 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethyl 2-amino-3-oxobutanoate hydrochloride | 3.12 mmol, 565 mg | Cl.NC(C(=O)OCC)C(C)=O
reactant | propionic acid | 3.7 mmol, 280 uL | C(CC)(=O)O | C3H6O2
reactant | 4-methylmorpholine | 3.7 mmol, 0.41 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 3-oxo-2-(propanoylamino)butanoate | 74 mg, 12% | O=C(C(C(=O)OCC)NC(CC)=O)C | C9H15NO4
